US06248755B1
Step B: 1-(t-Butoxycarbonyl)-4-([1,2,4]triazolo[4,3-a]pyridin-3-yl)piperidine
To a solution of 1-(t-butoxycarbonyl)-4-(2-(2-pyridinyl)hydrazino)carbonyl-piperidine (320 mg, 1.0 mmol) and dichlorotriphenylphosphorane (666 mg, 2.1 mmol) in CH3CN (10 mL) was added Et3N (0.42 mL, 3.0 mmol). After refluxing for 2h, the solution was diluted with EtOAc. The aqueous layer was extracted with EtOAc (3×). Combined organic phase was washed with brine and dried over anhydrous MgSO4. Concentration followed by flash chromatography eluting with 100% EtOAc, then 10% MeOH/CH2Cl2 afforded the title compound (180 mg) as a foamy solid. 1H NMR (500 MHz, CDCl3): δ 1.50 (s, 9H), 2.05˜2.11 (m, 4H), 3.03 (br s, 2H), 3.24 (m, 1H), 4.25 (br d, J=11.7 Hz, 1H), 6.86 (dt, J=6.9, 0.9 Hz, 1H), 7.25 (m, 1H), 7.78 (dt, J=9.4, 1.2 Hz, 1H), 7.95 (dt, J=6.8, 1.1 Hz, 1H), 7.79 (dd, J=7.3, 0.8 Hz, 1H).

reactant | 1-(t-butoxycarbonyl)-4-(2-(2-pyridinyl)hydrazino)carbonyl-piperidine | 1.0 mmol, 320 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)NNC1=NC=CC=C1 | C16H24N4O3
reactant | dichlorotriphenylphosphorane | 2.1 mmol, 666 mg | ClP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C18H15Cl2P
reactant | Et3N | 3.0 mmol, 0.42 mL | CCN(CC)CC | C6H15N
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(t-Butoxycarbonyl)-4-([1,2,4]triazolo[4,3-a]pyridin-3-yl)piperidine | 180 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NN=C2N1C=CC=C2 | C16H22N4O2
